US04282349
3 g of 2,3,5-tri-O-(p-nitrobenzoyl)-β-D-ribofuranosyl bromide prepared by the procedure described in Example 2 were dissolved in a mixture of 25 ml of acetone and 25 ml of dichloromethane. This solution was cooled to 5° C. and treated with a suspension of silver carbonate (1.25 g) in water (5 ml) with vigorous stirring. Stirring was continued for 90 minutes while the mixture was maintained at 5° C. The mixture was filtered and the filtrate evaporated under reduced pressure to yield a syrup. This syrup was redissolved in 50 ml of dichloromethane, dried over anhydrous MgSO4 and evaporated to yield a syrup which solidified on slow coevaporation with benzene. This yielded 1.76 g (65% yield) of 2,3,5-tri-O-(p-nitrobenzoyl)-D-ribofuranose. Recrystallization of this product from nitromethane yielded colorless needles which had a melting point of 177° to 178° C.

reactant | 2,3,5-tri-O-(p-nitrobenzoyl)-β-D-ribofuranosyl bromide | 3 g | [N+](=O)([O-])C1=CC=C(C(=O)O[C@H]2[C@@H](O[C@@H]([C@H]2OC(C2=CC=C(C=C2)[N+](=O)[O-])=O)COC(C2=CC=C(C=C2)[N+](=O)[O-])=O)Br)C=C1 | C26H18BrN3O13
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | acetone | 25 ml | CC(=O)C | C3H6O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | water | 5 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | silver carbonate | 1.25 g | C([O-])([O-])=O.[Ag+2]
product | 2,3,5-tri-O-(p-nitrobenzoyl)-D-ribofuranose | 1.76 g, 65% yield | [N+](=O)([O-])C1=CC=C(C(=O)O[C@H]2C(O)O[C@@H]([C@H]2OC(C2=CC=C(C=C2)[N+](=O)[O-])=O)COC(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C26H19N3O14
